US05663179
2-Methoxy-3'-methylbenzophenone
A mixture of 2-methoxybenzonitrile (4.3 ml) and the Grignard reagent of m-bromotoluene (6.6 g) in ether was refluxed for 1 h and hydrolysed with dilute hydrochloric acid with heating. The aqueous layer was then extracted with ether, and the resultant organic layer was dried and evaporated to give the title compound (5.5 g) as an oil.

reactant | 2-methoxybenzonitrile | 4.3 ml | COC1=C(C#N)C=CC=C1 | C8H7NO
reactant | m-bromotoluene | 6.6 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | hydrochloric acid | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | 2-Methoxy-3'-methylbenzophenone | 5.5 g | COC1=C(C(=O)C2=CC(=CC=C2)C)C=CC=C1 | C15H14O2
